US04343804
8-Methoxy-4-[(2-methylphenyl)amino]-3-quinolinecarboxylic Acid
A mixture of Ethyl 8-methoxy-4-[(2-methylphenyl)amino]-3-quinolinecarboxylate, 15.00 g (0.0445 mole), 100 ml of 3 N sodium hydroxide solution and 100 ml of ethanol was stirred at room temperature for 16 hours. The mixture was diluted with 300 ml of water and acidified to pH 6.8 with 6 N hydrochloric acid solution. The precipitate was collected by filtration, washed in succession with water and acetone and air dried for about 1.5 hr. Weight of solid was 13.41 g (98%), m.p. 272° C. (d).

reactant | Ethyl 8-methoxy-4-[(2-methylphenyl)amino]-3-quinolinecarboxylate | COC=1C=CC=C2C(=C(C=NC12)C(=O)OCC)NC1=C(C=CC=C1)C | C20H20N2O3
reactant | sodium hydroxide | 3 N, 100 ml | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 8-Methoxy-4-[(2-methylphenyl)amino]-3-quinolinecarboxylic Acid | COC=1C=CC=C2C(=C(C=NC12)C(=O)O)NC1=C(C=CC=C1)C | C18H16N2O3
